US04855295
0.7 g of 5-hydroxy-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester is hydrogenated in 50 ml of ethanol with 0.5 g of Raney nickel at a hydrogen pressure of 80 bars and a temperature of 100° C. for 6 hours. After filtering off of the catalyst, the solvent is evaporated in a vacuum. The residue is chromatographed on silica gel with dichloromethane and ethanol=10+1. 0.108 g of 4-methoxymethyl-5-oxo-5,6,7,8-tetrahydro-beta-carboline-3-carboxylic acid ethyl ester with a melting point of 249°-250° C. is obtained.

reactant | 5-hydroxy-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester | 0.7 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)O | C16H16N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
product | 4-methoxymethyl-5-oxo-5,6,7,8-tetrahydro-beta-carboline-3-carboxylic acid ethyl ester | 0.108 g | C(C)OC(=O)C=1N=CC=2NC=3CCCC(C3C2C1COC)=O | C16H18N2O4
